US04563466
N-[[[1-(naphth-2-ylmethyl)-4-piperidinyl]aminocarbonyl]-2-furancarboxamide
4-Amino-1-(naphth-2-ylmethyl)piperidine (1.2 g, 0.005 m) and 2-furoylurea (0.7 g) in pyridine (5 ml) was refluxed for 6 hours, then cooled. Water was added and the precipitate collected by filtration. The solid was dissolved in chloroform with a little methanol and filtered. The solvent was removed under reduced pressure and the residue was purified by medium pressure liquid chromatography on silica using CHCl3 :MeOH (9:1 v/v) as eluent. The isolated product (1st component eluted) was dissolved in ethyl acetate and acidified with ethanolic HCl to give a precipitate. This was filtered and dried to give 0.3 g of the title compound as the HCl, 3/4H2O salt, mp. 157°-159° C.

reactant | 4-Amino-1-(naphth-2-ylmethyl)piperidine | 1.2 g | NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C16H20N2
reactant | 2-furoylurea | 0.7 g | O1C(=CC=C1)C(=O)NC(=O)N | C6H6N2O3
reactant | Water | O | H2O
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | [[1-(naphth-2-ylmethyl)-4-piperidinyl]aminocarbonyl]-2-furancarboxamide | 0.3 g | C1=C(C=CC2=CC=CC=C12)CN1CCC(CC1)NC(=O)C1=C(OC=C1)C(=O)N | C22H23N3O3
